US05026851
Diethyl N-(4-[2-(2-acetamido-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6 -yl)propyl]benzoyl)-L-glutamate
A solution of 84.4 mg of diethyl N-(4-[2-(2-acetamido-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)prop-1-enyl]benzoyl)-L-glutamate in 30 mL of trifluoroacetic acid was hydrogenated at 55 psi of hydrogen in the presence of 0.42 g of 5% Pd/C at room temperature for 24 hours. The catalyst was removed by filtration and the filtrate was evaporated under reduced pressure. The resulting residue was taken up in chloroform and was extracted with a saturated sodium bicarbonate solution. The organic layer was dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The residue was then subjected to thin layer chromatography using a 5% methanol:chloroform mixture as the eluent. After elution of a first fraction, there was obtained 19.6 mg of the title compound, NMR (CDCl3 250 MHz), d 1.20-1.33(m, overlapping methyls, 9H), 2.45-3.36(m, 15H), 4.11(q, 2H, J=7.14 Hz), 4.23(q, 2H, J=7.10 Hz), 4.89(m, 1H), 5.44(brs, 1H), 7.24(d, 2H, J=7.54 Hz), 7.72(d, 2H, J=7.54 Hz), 9.77(brs, 1H), 11.26(brs, 1H).

reactant | diethyl N-(4-[2-(2-acetamido-4-hydroxypyrido[2,3-d]pyrimidin-6-yl)prop-1-enyl]benzoyl)-L-glutamate | 84.4 mg | C(C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C(=CC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)C)O | C28H31N5O7
reactant | hydrogen | [H][H] | H2
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Pd/C | 0.42 g | [Pd] | Pd
product | Diethyl N-(4-[2-(2-acetamido-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6 -yl)propyl]benzoyl)-L-glutamate | 19.6 mg | C(C)(=O)NC=1N=C(C2=C(N1)NCC(C2)C(CC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)C)O | C28H37N5O7
